US05006520
In 300 ml of water was dissolved 5.1 g of sodium hydroxide, and 800 ml of ethanol was added to the solution. While stirring, thereto was added a solution of 40 g of ethyl 4-(1-phenyl-1H-pyrazolo[3,4-b]pyridin-3-yl)phenoxyacetate dissolved in 200 ml of dioxane. After the mixture was stirred at room temperature for 4 hours, it was poured into about 3 l of cold water. The mixture was neutralized by the addition of dilute hydrochloric acid. The resulting crystals were collected by filtration and recrystallized from hydrous dioxane to give 22.1 g of 4-(1-phenyl-1H-pyrazolo[3,4-b]pyridin-3-yl)phenoxyacetic acid, m.p. 220°-222° C.

reactant | sodium hydroxide | 5.1 g | [OH-].[Na+]
reactant | ethanol | 800 ml | C(C)O | C2H6O
reactant | ethyl 4-(1-phenyl-1H-pyrazolo[3,4-b]pyridin-3-yl)phenoxyacetate | 40 g | C1(=CC=CC=C1)N1N=C(C=2C1=NC=CC2)C2=CC=C(OCC(=O)OCC)C=C2 | C22H19N3O3
reactant | hydrochloric acid | Cl | ClH
solvent | water | 300 ml | O | H2O
solvent | dioxane | 200 ml | O1CCOCC1 | C4H8O2
solvent | water | about 3 l | O | H2O
product | 4-(1-phenyl-1H-pyrazolo[3,4-b]pyridin-3-yl)phenoxyacetic acid | 22.1 g | C1(=CC=CC=C1)N1N=C(C=2C1=NC=CC2)C2=CC=C(OCC(=O)O)C=C2 | C20H15N3O3
